US04243609
A solution of 3.8 g of potassium hydroxide in 15 ml of water is added to a mixture of 3.5 g of ethyl 3-fluoro-4-hexadecylaminobenzoate, 30 ml of water and 30 ml of ethanol. Upon heating, a clear solution is formed and after 20 hours, the hot solution is acidified with concentrated hydrochloric acid and cooled. The precipitate is collected and recrystallized from ethanol and then from chloroform to yield 3-fluoro-4-(hexadecylamino)benzoic acid as a colorless solid.

reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
reactant | ethyl 3-fluoro-4-hexadecylaminobenzoate | 3.5 g | FC=1C=C(C(=O)OCC)C=CC1NCCCCCCCCCCCCCCCC | C25H42FNO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 3-fluoro-4-(hexadecylamino)benzoic acid | FC=1C=C(C(=O)O)C=CC1NCCCCCCCCCCCCCCCC | C23H38FNO2
